
*SRC=CCL0035;CCL0035;Diodes;JFET Regulator;100V .035mA
*SYM=CRDIODE
.SUBCKT CCL0035 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0035J 
.MODEL CCL0035J NJF VTO=-0.52 BETA=.13M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=175 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL0130;CCL0130;Diodes;JFET Regulator;100V .13mA
*SYM=CRDIODE
.SUBCKT CCL0130 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0130J 
.MODEL CCL0130J NJF VTO=-0.52 BETA=.36M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=225 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL0300;CCL0300;Diodes;JFET Regulator;100V .310mA
*SYM=CRDIODE
.SUBCKT CCL0300 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0300J 
.MODEL CCL0300J NJF VTO=-1.13 BETA=.32M LAMBDA=0.1M  
+ IS=100.58F PB=0.8 FC=.5 RS=265 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL0500;CCL0500;Diodes;JFET Regulator;100V .515mA
*SYM=CRDIODE
.SUBCKT CCL0500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0500J 
.MODEL CCL0500J NJF VTO=-1.23 BETA=.38M LAMBDA=0.1M  
+ IS=100.58F PB=0.8 FC=.5 RS=265 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL0750;CCL0750;Diodes;JFET Regulator;100V 0.76mA
*SYM=CRDIODE
.SUBCKT CCL0750 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL0750J 
.MODEL CCL0750J NJF VTO=-1.35 BETA=.57M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=225 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL1000;CCL1000;Diodes;JFET Regulator;100V 1.1mA
*SYM=CRDIODE
.SUBCKT CCL1000 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL1000J 
.MODEL CCL1000J NJF VTO=-1.95 BETA=.455M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=225 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL1500;CCL1500;Diodes;JFET Regulator;100V 1.5mA
*SYM=CRDIODE
.SUBCKT CCL1500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL1500J 
.MODEL CCL1500J NJF VTO=-2.45 BETA=.387M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=220 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL2000;CCL2000;Diodes;JFET Regulator;100V 2mA
*SYM=CRDIODE
.SUBCKT CCL2000 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL2000J 
.MODEL CCL2000J NJF VTO=-3.15 BETA=.28M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=220 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL2700;CCL2700;Diodes;JFET Regulator;100V 2.69mA
*SYM=CRDIODE
.SUBCKT CCL2700 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL2700J 
.MODEL CCL2700J NJF VTO=-4.05 BETA=.217M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=210 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL3500;CCL3500;Diodes;JFET Regulator;100V 3.55mA
*SYM=CRDIODE
.SUBCKT CCL3500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL3500J 
.MODEL CCL3500J NJF VTO=-4.45 BETA=.262M LAMBDA=0.1M 
+ IS=100.58F PB=0.8 FC=.5 RS=165 RD=2.5 CGS=1.57P CGD=6.78P
.ENDS
*********
*SRC=CCL4500;CCL4500;Diodes;JFET Regulator;100V 4.51mA
*SYM=CRDIODE
.SUBCKT CCL4500 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL4500J 
.MODEL CCL4500J NJF VTO=-5.15 BETA=.232M LAMBDA=0.1M 
+ IS=100.58F PB=.8 FC=.5 RS=165 RD=4 CGS=1.57P CGD=4.78P
.ENDS
*********
*SRC=CCL5750;CCL5750;Diodes;JFET Regulator;100V 5.75mA
*SYM=CRDIODE
.SUBCKT CCL5750 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCL5750J 
.MODEL CCL5750J NJF VTO=-5.85 BETA=.228M LAMBDA=0.1M 
+ IS=100.58F PB=.8 FC=.5 RS=152 RD=3 CGS=1.57P CGD=11.78P
.ENDS
*********
*SRC=CCLH080;CCLH080;Diodes;JFET Regulator;100V 8.2mA
*SYM=CRDIODE
.SUBCKT CCLH080 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH080J 
.MODEL CCLH080J NJF VTO=-6.75 BETA=.246M LAMBDA=0.1M 
+ IS=100.58F PB=.8 FC=.5 RS=125 RD=3 CGS=1.57P CGD=9.23P
.ENDS
*********
*SRC=CCLH100;CCLH100;Diodes;JFET Regulator;100V 10.0mA
*SYM=CRDIODE
.SUBCKT CCLH100 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH100J 
.MODEL CCLH100J NJF VTO=-7.25 BETA=.273M LAMBDA=0.1M 
+ IS=100.58F PB=.8 FC=.5 RS=125 RD=3 CGS=1.57P CGD=12.23P
.ENDS
*********
*SRC=CCLH120;CCLH120;Diodes;JFET Regulator;100V 12.0mA
*SYM=CRDIODE
.SUBCKT CCLH120 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH120J 
.MODEL CCLH120J NJF VTO=-7.84 BETA=.293M LAMBDA=0.1M 
+ IS=100.58F PB=.8 FC=.5 RS=125 RD=3 CGS=1.57P CGD=14.23P
.ENDS
*********
*SRC=CCLH150;CCLH150;Diodes;JFET Regulator;100V 15.0mA
*SYM=CRDIODE
.SUBCKT CCLH150 1     2
*Connections    Anode Cathode 
JFET 1 2 2 CCLH150J 
.MODEL CCLH150J NJF VTO=-8.48 BETA=.33M LAMBDA=0.1M
+ IS=100.58F PB=.8 FC=.5 RS=120 RD=3 CGS=1.57P CGD=9.43P
.ENDS
*********

