.SUBCKT CIRCULATOR 1  2  3 params: gain=100k z=50
bi1 0 5 i=v(1,4)*{gain*1k} Rpar=1m Cpar=1p
bi2 0 7 i=v(2,6)*{gain*1k} Rpar=1m Cpar=1p
bi3 0 9 i=v(3,8)*{gain*1k} Rpar=1m Cpar=1p
R1 4 9 {z}
R2 1 9 {z}
R3 4 5 {z}
R4 5 6 {z}
R5 2 5 {z}
R6 6 7 {z}
R7 7 8 {z}
R8 3 7 {z}
R9 8 9 {z}
.ENDS  CIRCULATOR
